US06140516
To a flask fitted with a condenser and nitrogen inlet was added 3,4-epoxytetrahydrofuran (20 g, 0.23 mol), isobutyronitrile (100 ml, 5 vol), benzyl alcohol (124 g, 1.15 mol, 5 eq.) and finally magnesium perchlorate (10.3 g, 0.046 mol, 0.2 eq). The solution was heated at 100° C. for 24 hours. After cooling to room temperature, the reaction was quenched with water (1000 mL). The phases were separated and the aqueous phase was extracted with ethyl acetate (3×400 mL). After drying the organic phases over MgSO4, filtering and concentrating in vacuo, the trans-3-benzyloxy-4-hydroxytetrahydrofuran was isolated by column chromatography to give 29 g (66% yield) of a clear colorless liquid.

reactant | 3,4-epoxytetrahydrofuran | 0.23 mol, 20 g | O1C2COCC21 | C4H6O2
reactant | benzyl alcohol | 1.15 mol, 124 g, 5 eq. | C(C1=CC=CC=C1)O | C7H8O
reactant | magnesium perchlorate | 0.046 mol, 10.3 g, 0.2 eq | Cl(=O)(=O)(=O)[O-].[Mg+2].Cl(=O)(=O)(=O)[O-]
solvent | isobutyronitrile | 100 ml | C(C(C)C)#N | C4H7N
product | trans-3-benzyloxy-4-hydroxytetrahydrofuran | C(C1=CC=CC=C1)O[C@@H]1COC[C@H]1O | C11H14O3
